US07893267B2
70 mg (0.45 mmol) of 4-chloro-benzoic acid 170 mg (0.45 mmol) of HBTU in a mixture of 3 ml of DMF and 1 mL of DIEA was reacted with 100 mg (0.4 mmol) of 2-amino-3H-benzoimidazole-4-carboxylic acid (1H-imidazol-2-yl)-amide synthesized above as described in general procedure A and 2-(4-chloro-benzoylamino)-1H-benzoimidazole-4-carboxylic acid (1H-imidazol-2-yl)-amide (30 mg, 17.24%) was isolated. LCMS: 382 (M+1)+. 1H NMR (DMSO-d6, 400 MHz): δ 11.99 (d, 1H), 8.16 (d, 2H), 7.94 (d, 1H), 7.70 (dd, 3H), 7.30 (t, 1H), 6.81 (d, 2H) ppm.

reactant | 4-chloro-benzoic acid | 0.45 mmol, 70 mg | ClC1=CC=C(C(=O)O)C=C1 | C7H5ClO2
reactant | HBTU | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 2-amino-3H-benzoimidazole-4-carboxylic acid (1H-imidazol-2-yl)-amide | 0.4 mmol, 100 mg | N1C(=NC=C1)NC(=O)C1=CC=CC=2N=C(NC21)N | C11H10N6O
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | DIEA | 1 mL | CCN(C(C)C)C(C)C | C8H19N
product | 2-(4-chloro-benzoylamino)-1H-benzoimidazole-4-carboxylic acid (1H-imidazol-2-yl)-amide | 30 mg, 17.24% | N1C(=NC=C1)NC(=O)C1=CC=CC=2NC(=NC21)NC(C2=CC=C(C=C2)Cl)=O | C18H13ClN6O2
